US03965015
Preparation of 1-octadecyl-3-(aminohexyl) urea
29 grams 1,6-hexanediamine (0.25 mole) was reacted with 20 gms (0.068 mole) octadecyl isocyanate as in Example 2. Yield: 25.5 gms, melting point 123°-168°C.

reactant | 1,6-hexanediamine | 0.25 mole, 29 grams | C(CCCCCN)N | C6H16N2
reactant | octadecyl isocyanate | 0.068 mole, 20 gms | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 1-octadecyl-3-(aminohexyl) urea | C(CCCCCCCCCCCCCCCCC)NC(=O)NCCCCCCN | C25H53N3O
